US04933452
4-hydroxybenzophenone;
7-hydroxy-4-methyl coumarin; 4-phenyl phenol; 2',4',5',7'-tetrabromo fluorescein (C.I. 453802); Thionin; 2-mercapto benzothiozole; 4-diethylamino-4'-(N-ethyl-N-hydroxyethyl)amino benzophenone; and 2(4(N-ethyl-N-hydroxyethyl)aminobenzylidene)inden-1-one.

reactant | 7-hydroxy-4-methyl coumarin | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
reactant | 4-phenyl phenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | 2',4',5',7'-tetrabromo fluorescein | C1=CC=C2C(=C1)C(=O)OC23C4=CC(=C(C(=C4OC5=C(C(=C(C=C35)Br)O)Br)Br)O)Br | C20H8Br4O5
reactant | Thionin | S1C=CC=CC=CC=C1 | C8H8S
product | 4-hydroxybenzophenone | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
